US07521461B2
b) N-(3-Aminobenzyl)-1,1′-biphenyl-4-carboxamide
tert-Butyl 3-{[(1,1′-biphenyl-4-ylcarbonyl)amino]methyl}phenylcarbamate (250 mg, 0.6 mmol) was dissolved in DCM (10 ml). Trifluoroacetic acid (0.2 ml) was added. The mixture was stirred overnight. HPLC showed that more than 50% of the starting material was not reacted. More trifluoroacetic acid (0.3 ml) was added. The mixture was stirred overnight again. Water was added into the mixture. The phases were not clear. DCM was evaporated in vacuum Ethyl acetate was added to the residue. The obtained organic phase was washed with water (×3) and dried with magnesium sulphate. The solvent was then evaporated. Solid product (185 mg) was obtained, yield 99%.

reactant | tert-Butyl 3-{[(1,1′-biphenyl-4-ylcarbonyl)amino]methyl}phenylcarbamate | 0.6 mmol, 250 mg | C1(=CC=C(C=C1)C(=O)NCC=1C=C(C=CC1)NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C25H26N2O3
reactant | Trifluoroacetic acid | 0.2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid | 0.3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | Water | O | H2O
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | N-(3-Aminobenzyl)-1,1′-biphenyl-4-carboxamide | 185 mg, yield 99% | NC=1C=C(CNC(=O)C2=CC=C(C=C2)C2=CC=CC=C2)C=CC1 | C20H18N2O
